US04610991
A solution of 2.77 kg 1-(2-aminobenzoyl)piperidine in 16 liters of 2-methoxyethanol was heated until solvent distillation was about to begin (125° C. internal temperature). A solution of 2.1 kg 4-chloropyridine hydrochloride in 21 liters of 2-methoxyethanol was then slowly added over a period of one hour during which 4 liters of distillate was collected. Heating was continued for another hour while 16 liters of distillate was collected. The reaction mixture was concentrated in vacuo, and the thick residue was dissolved in 10 liters of water. Sodium acetate trihydrate (1.85 kg) was added and the solution washed three times with 3 liters of isopropyl acetate and decolorized with activated charcoal. The aqueous solution was made basic (pH>10) by dropwise addition of sodium hydroxide solution. Seeding during the addition generated a precipitate. A small amount of acetic acid was added to lower the pH to 8.5-9, and after 30 minutes of stirring the product was collected, washed with water and air dried to give 2.51 kg of 1-[2-(4-pyridinylamino)benzoyl]piperidine, m.p. 152°-153° C. The latter product was further purified by recrystallization from acetone to give the compound with m.p. 154°-155° C.

reactant | 1-(2-aminobenzoyl)piperidine | 2.77 kg | NC1=C(C(=O)N2CCCCC2)C=CC=C1 | C12H16N2O
reactant | 4-chloropyridine hydrochloride | 2.1 kg | Cl.ClC1=CC=NC=C1
solvent | 2-methoxyethanol | 16 liters | COCCO | C3H8O2
solvent | 2-methoxyethanol | 21 liters | COCCO | C3H8O2
product | 1-[2-(4-pyridinylamino)benzoyl]piperidine | 2.51 kg | N1=CC=C(C=C1)NC1=C(C(=O)N2CCCCC2)C=CC=C1 | C17H19N3O
